US09278983B2
A mixture of 5,N2-dimethylpyridin-2,3-diamine (1.13 g), 2-ethylsulfanylbenzoic acid (1.79 g), WSC (1.38 g), and pyridine (20 ml) was stirred with heating under reflux at 120° C. for 2 hours. Into the reaction mixture cooled to room temperature, water was poured, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 1.58 g of 2-ethylsulfanylphenyl-N-(5-methyl-2-methylaminopyridin-3-yl)-benzamide (Compound (1B)-514).

reactant | 5,N2-dimethylpyridin-2,3-diamine | 1.13 g | CC=1C=C(C(=NC1)NC)N | C7H11N3
reactant | 2-ethylsulfanylbenzoic acid | 1.79 g | C(C)SC1=C(C(=O)O)C=CC=C1 | C9H10O2S
reactant | WSC | 1.38 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
product | 2-ethylsulfanylphenyl-N-(5-methyl-2-methylaminopyridin-3-yl)-benzamide | 1.58 g | C(C)SC1=C(C=CC=C1)C1=C(C(=O)NC=2C(=NC=C(C2)C)NC)C=CC=C1 | C22H23N3OS
